US06130220
10% Palladium on carbon (0.49 g) was added to a solution of 1-benzyloxycarbonyl-4-(5-cyano-1-methanesulfonylindol-3-yl)piperidine (0.98 g, 2.24 mmol) [prepared as described in Step 2 above] in 80% ethanol/tetrahydrofuran (10 ml) under an argon atmosphere. The reaction mixture was stirred under an atmosphere of hydrogen gas (1 atm) for 2 h. The reaction mixture was degassed, filtered through Celite and concentrated in vacuo to give 4-(5-cyano-1-methanesulfonylindol-3-yl)piperidine (97%) as a white solid. This material was converted to N-hydroxy-1-[4-(5-cyano-1-methanesulfonylindol-3-yl)piperidine-1-sulfonyl]-piperidine-2-(R)-carboxamnide by converting it to 4-(5-cyano-1-methanesulfonylindol-3-yl)piperidine-1-sulfonyl chloride by following Example 16, Step 1, coupling the sulfonyl chloride with (R)-pipecolinic acid (L)-tartrate salt to give 1-[4-(5-cyano-1-methanesulfonyl-indol-3-yl)piperidine-1-sulfonyl]piperidine-2-(R)-carboxylic acid (86%) by following Example 14, Step 6 and then converting the acid to the final compound by following Example 16, Steps 3 and 5; mp: 143.3-143.9° C.

reactant | 4-(5-cyano-1-methanesulfonylindol-3-yl)piperidine-1-sulfonyl chloride | C(#N)C=1C=C2C(=CN(C2=CC1)S(=O)(=O)C)C1CCN(CC1)S(=O)(=O)Cl | C15H16ClN3O4S2
reactant | sulfonyl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | (R)-pipecolinic acid (L)-tartrate salt | C(=O)(O)[C@H](O)[C@@H](O)C(=O)O.N1[C@@H](C(=O)O)CCCC1
product | 1-[4-(5-cyano-1-methanesulfonyl-indol-3-yl)piperidine-1-sulfonyl]piperidine-2-(R)-carboxylic acid | 86% | C(#N)C=1C=C2C(=CN(C2=CC1)S(=O)(=O)C)C1CCN(CC1)S(=O)(=O)N1[C@H](CCCC1)C(=O)O | C21H26N4O6S2
